### PR TITLE
Algebras as displayed categories

### PR DESCRIPTION
**Pull request by stschaef**
I've included the notes for this PR in the `um-catlab` forest. Notes may be found [here](https://um-catlab.github.io/foreign/stevenschaefer.net/sss-00GC/index.xml). This is in a chain of three branches `em-family`, `lob-ind`, and `lob-examples` that culminate in defining guarded recursion for presheaves/families over a direct category 

In summary, this adds
- F-(co)algebras using displayed categories
- (co)Eilenberg-Moore using displayed categories
- Free/Forgetful/Cofree adjoint triple between presheaves and families and the proof that presheaves are (co)monadic

This is the beginning of a chain of branches, they have PRs #260 and #261

### CODE REVIEW

**Comment by maxsnew** [comment]
I don't really understand the chain of PRs. Am I just supposed to review this one as normal and then you will edit the other PRs to be against main or am I supposed to merge in the opposite order and then finally merge this into main?

File: Cubical/Categories/Displayed/Instances/Algebras.agda [hunk 1]
```diff
@@ -0,0 +1,66 @@
+module Cubical.Categories.Displayed.Instances.Algebras where
```
Comment (maxsnew) [inline Cubical/Categories/Displayed/Instances/Algebras.agda]: I don't like calling this "Algebras" without indicating that it's "algebras of a functor" rather than a monad. Algebras of a monad are the things that are an actual generalization of algebras in the sense of universal algebra

File: Cubical/Categories/Presheaf/Family/Base.agda [hunk 2]
```diff
@@ -0,0 +1,231 @@
...
+      ∙ cong (mor .fst .fst c) hyp)
+  coEM→PSH .F-id = makePshHomStrictPath refl
+  coEM→PSH .F-seq f g = makePshHomStrictPath refl
+
+  -- comonadicity
+  PSH≃coEM : PSH ≃ᶜ coEM Wᶜ
+  PSH≃coEM = equivᶜ PSH→coEM ∣ winv ∣₁
+    where
+      ηIso : NT.NatIso 𝟙⟨ PSH ⟩ (coEM→PSH ∘F PSH→coEM)
+      ηIso = record
```
Comment (maxsnew) [inline Cubical/Categories/Presheaf/Family/Base.agda]: projection syntax plz

File: Cubical/Categories/Presheaf/Family/Base.agda [hunk 3]
```diff
@@ -0,0 +1,231 @@
...
+    EM→PSH .F-id = makePshHomStrictPath refl
+    EM→PSH .F-seq f g = makePshHomStrictPath refl
+
+    -- monadicity
+    PSH≃EM : PSH ≃ᶜ EM Tmonᵃ
+    PSH≃EM = equivᶜ PSH→EM ∣ winv ∣₁
+      where
+        ηIso : NT.NatIso 𝟙⟨ PSH ⟩ (EM→PSH ∘F PSH→EM)
+        ηIso = record
+          { trans = NT.natTrans
```
Comment (maxsnew) [inline Cubical/Categories/Presheaf/Family/Base.agda]: projection syntax

File: Cubical/Categories/Presheaf/Family/Base.agda [hunk 4]
```diff
@@ -0,0 +1,231 @@
...
+    EM→PSH .F-hom mor = pshhom
+      (λ x p → mor .fst .fst x p)
+      (λ c c' f p' p hyp →
+        sym (funExt⁻ (funExt⁻ (mor .fst .snd) c) (c' , f , p'))
+        ∙ cong (mor .fst .fst c) hyp)
+    EM→PSH .F-id = makePshHomStrictPath refl
+    EM→PSH .F-seq f g = makePshHomStrictPath refl
+
+    -- monadicity
+    PSH≃EM : PSH ≃ᶜ EM Tmonᵃ
```
Comment (maxsnew) [inline Cubical/Categories/Presheaf/Family/Base.agda:205]: This is not full monadicity. Monadicity would also say that this equivalence relates the two forgetful functors

File: Cubical/Categories/Presheaf/Family/Base.agda [hunk 5]
```diff
@@ -0,0 +1,231 @@
...
+  coEM→PSH .F-hom mor = pshhom
+    (λ x p → mor .fst .fst x p)
+    (λ c c' f p' p hyp →
+      cong (λ t → t c f) (funExt⁻ (funExt⁻ (mor .fst .snd) c') p')
+      ∙ cong (mor .fst .fst c) hyp)
+  coEM→PSH .F-id = makePshHomStrictPath refl
+  coEM→PSH .F-seq f g = makePshHomStrictPath refl
+
+  -- comonadicity
+  PSH≃coEM : PSH ≃ᶜ coEM Wᶜ
```
Comment (maxsnew) [inline Cubical/Categories/Presheaf/Family/Base.agda:113]: not full comonadicity, see below comment about monadicity

File: Cubical/Categories/Displayed/Instances/EilenbergMoore.agda [hunk 6]
```diff
@@ -0,0 +1,59 @@
...
+    module C = Category C
+    module M = IsMonad (snd Mon)
+    module FT = Functor (fst Mon)
+  open NatTrans
+
+  -- The conditions needed to upgrade an algebra of an endofunctor to
+  -- an algebra of a monad
+  --   α ∘ η x ≡ id          (unit law)
+  --   α ∘ μ x ≡ α ∘ T α     (multiplication law)
+  EMStructureOver : StructureOver (∫C (ALGᴰ (fst Mon))) ℓC' ℓ-zero
```
Comment (maxsnew) [inline Cubical/Categories/Displayed/Instances/EilenbergMoore.agda]: This is a PropertyOver

File: Cubical/Categories/Displayed/Instances/EilenbergMoore.agda [hunk 7]
```diff
@@ -0,0 +1,59 @@
...
+  EMᴰ = StructureOver→Catᴰ EMStructureOver
+
+  -- The Eilenberg–Moore category.
+  EM : Category (ℓ-max ℓC ℓC') (ℓ-max ℓC' ℓC')
+  EM = ∫C EMᴰ
+
+-- A morphism of algebras is determined by the carrier map
+module _ {C : Category ℓC ℓC'} {Mon : Monad C} where
+
+  emHom≡ : {X Y : Category.ob (EM Mon)}
```
Comment (maxsnew) [inline Cubical/Categories/Displayed/Instances/EilenbergMoore.agda:52]: this is true of all PropertyOvers

Comment (maxsnew) [reply Cubical/Categories/Displayed/Instances/EilenbergMoore.agda:52]: and structure overs

**Review by maxsnew — CHANGES_REQUESTED** [review]
Mostly terminology and reuse stuff. We also have `Cubical.Categories.Monad.Algebra` which is a different approach to monads and their algebras but it never got displayified.

File: Cubical/Categories/Presheaf/Family/Base.agda (hunk 4 above)
Comment (stschaef) [reply Cubical/Categories/Presheaf/Family/Base.agda:205]: I've now also given equalities between the forgetful functors

**Review by maxsnew — APPROVED** [review]
